US09399640B2
Step 6. 4-(7-Ethoxy-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A suspension of 4-[7-(2,4-difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (29.1 mg, 50.6 μmol) in ethanol (1.0 mL) was treated with a 3.0 M solution of sodium hydroxide in water (0.254 mL, 0.762 mmol), then warmed to 55° C. and stirred at that temperature for 30 min. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (6 mg, 14%). 1H NMR (300 MHz, DMSO-d6) δ 12.15 (br s, 1H), 7.28 (d, J=2.8 Hz, 1H), 7.24 (s, 1H), 6.39 (s, 1H), 6.03 (d, J=2.7 Hz, 1H), 4.45 (q, J=7.0 Hz, 2H), 3.55 (s, 3H), 2.42 (s, 3H), 2.24 (s, 3H), 1.07 (t, J=7.1 Hz, 3H); LCMS calculated for C18H20N5O2 (M+H)+: m/z=338.2. found: 338.1.

reactant | 4-[7-(2,4-difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 50.6 μmol, 29.1 mg | FC1=C(OC2=C(C(=NC=3N2N=C(C3)C)C)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C29H23F2N5O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.762 mmol, 0.254 mL | O | H2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 4-(7-Ethoxy-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 6 mg, 14% | C(C)OC1=C(C(=NC=2N1N=C(C2)C)C)C=2C1=C(C(N(C2)C)=O)NC=C1 | C18H19N5O2
